US07319099B2
(b) rac-2-Methyl-1-(4-trifluoromethyl-phenyl)-piperazine hydrochloride
To 0.58 mmol rac-3-methyl-4-(4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester in 3 ml dioxane was added 8.7 mmol HCl (as a 4 M solution in dioxane), and the mixture was heated at 90° C. for 3 h. The mixture was then cooled 0° C. and diluted with 10 ml ether. The ensuing white crystals were collected by filtration, washing with ether, and dried in vacuo to afford the title compound.

reactant | rac-3-methyl-4-(4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.58 mmol | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(F)(F)F)C | C17H23F3N2O2
reactant | HCl | 8.7 mmol | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ether | 10 ml | CCOCC | C4H10O
product | rac-2-Methyl-1-(4-trifluoromethyl-phenyl)-piperazine hydrochloride | Cl.CC1N(CCNC1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C12H15F3N2.ClH/c1-9-8-16-6-7-17(9)11-4-2-10(3-5-11)12(13,14)15;/h2-5,9,16H,6-8H2,1H3;1H
